US09284331B2
Step 2: 9-(tert-butyl)-2-(4-(methoxymethyl)-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one.
Example 125. A solution of -(tert-butyl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione (370 mg, 1.30 mmol) in DCE (20 mL) was treated with POCl3 (0.24 mL, 2.60 mmol) and the mixture was heated to 110° C. for 1 h. The mixture was then allowed to cool to RT, diluted with DCM and washed with H2O. The org. phase was then dried over Na2SO4, filtered and concentrated in vacuo. The residue obtained was taken up in DCE (20 mL) and 4-(methoxymethyl)-1H-imidazole (438 mg, 3.90 mmol) was then added. The mixture was heated to 110° C. for 1 h, and then allowed to cool to RT, diluted with DCM and washed with H2O. The org. layer was then dried over Na2SO4, filtered and concentrated in vacuo. Purification by flash chromatography (SiO2, heptane to AcOEt to AcOEt/MeOH 85:15) and SFC (column: PPU 5 μm, 250×30 mm, 60 A, Princeton; eluent: isocratic 5% MeOH/CO2 for 11 min; flow 100 mL/min; UV detection at 220 nm) gave the title compound (83 mg). UPLC-MS: MS 379.2 (M+H+); UPLC rt 1.04 min. 1H NMR (400 MHz, DMSO-d6): δ ppm 1.38 (s, 9 H); 3.10-3.20 (m, 2 H); 3.22 (br s, 3 H); 3.63 (m, 2 H); 4.25 (m, 4 H); 6.86 (d, J=1.96 Hz, 1 H); 7.31 (s, 1 H); 7.49 (d, J=8.21 Hz, 1 H); 7.54-7.69 (m, 2 H); 8.17 (d, J=1.56 Hz, 1 H).

reactant | (tert-butyl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 1.30 mmol, 370 mg | C(C)(C)(C)C=1C(NCC(N2C1C1=CC=CC=C1CC2)=O)=O | C17H20N2O2
reactant | POCl3 | 2.60 mmol, 0.24 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 4-(methoxymethyl)-1H-imidazole | 3.90 mmol, 438 mg | COCC=1N=CNC1 | C5H8N2O
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
product | 9-(tert-butyl)-2-(4-(methoxymethyl)-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 83 mg | C(C)(C)(C)C1=C2CCN3C(C2=CC=C1)=CC(=NCC3=O)N3C=NC(=C3)COC | C22H26N4O2
